US07351743B1
To a solution of N-(4-sec-butylphenyl)-4-tert-butylbenzylamine (4.5 g) in diethylether (10 mL) was added ether at HCl solution at 4° C., then the reaction mixture was stirred at 25° C. for 10 minutes. The resulting solution was the evaporated and dried under vacuum to afford 4.7 g of N-(4-sec-butylphenyl)-4-tert-butylbenzylamine·HCl.

reactant | N-(4-sec-butylphenyl)-4-tert-butylbenzylamine | 4.5 g | C(C)(CC)C1=CC=C(C=C1)NCC1=CC=C(C=C1)C(C)(C)C | C21H29N
reactant | HCl | Cl | ClH
solvent | diethylether | 10 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | N-(4-sec-butylphenyl)-4-tert-butylbenzylamine·HCl | 4.7 g | C(C)(CC)C1=CC=C(C=C1)NCC1=CC=C(C=C1)C(C)(C)C.Cl | InChI=1S/C21H29N.ClH/c1-6-16(2)18-9-13-20(14-10-18)22-15-17-7-11-19(12-8-17)21(3,4)5;/h7-14,16,22H,6,15H2,1-5H3;1H
